US05218000
N-(3-Hydroxybenzoyl)-spermine
According to the General Procedure using 3-Hydroxybenzoic acid (138 mg, 1.00 mMol), dicyclohexylcarbodiimide (226 mg, 1.10 mMol), and spermine (400 mg, 1.98 mMol) in dichloromethane (6 ml), activation during 3 h and coupling over 17 h. The product was eluted over silica gel with dichloromethane/methanol/0.880 ammonia solution (4:2:1). The desired amide was in fractions 8-13 was homogeneous when monitored by tlc on silica (CH2Cl2 /MeOH/NH4OH, 4:2:1), Rf =0.29, (76 mg, 24%), lyophilisation gave 52 mg of a colorless, viscous oil whose spectroscopic data include:pmr (90 MHz, 2H2O) 1.4-1.9 (m, 8H, 4×CH2 --CH2), 2.5-2.9 (m, 10H, 5×CH2 --N), 3.25 (t, J=7, 2H, CON2H--CH2 --CH2), 6.5-6.8 (m, 3H, 3× ArH 2,4,6), and 7.0-7.3 (m, 1H, ArH 5) ppm; M+1 323 (FAB matrix m-nitrobenzyl alcohol and sodium chloride) C17H30N4O2 requires M+ 322).

reactant | 3-Hydroxybenzoic acid | 1.00 mMol, 138 mg | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | dicyclohexylcarbodiimide | 1.10 mMol, 226 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | spermine | 1.98 mMol, 400 mg | NCCCNCCCCNCCCN | C10H26N4
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | N-(3-Hydroxybenzoyl)-spermine | OC=1C=C(C(=O)NCCCNCCCCNCCCN)C=CC1 | C17H30N4O2
